US05376684
20 mg of 5% palladium-on-carbon are added to a solution of 0.125 g of 3-{N-[1-(3,4-dichlorophenyl)ethyl]amino}-2-(S)-hydroxy-propyl-(cyclohex-3-enylmethyl)-phosphinic acid in 5 ml of ethanol and hydrogenation at room temperature and normal pressure for 15 minutes. The catalyst is filtered off through Celite® and the filtrate is adjusted to pH 1 with ethanolic hydrochloric acid. Removal of the solvent and recrystallisation from isopropanol yield 3-{N-[1-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxypropyl-(cyclohexylmethyl)-phosphinic acid, m.p. 173°-178°.

reactant | 3-{N-[1-(3,4-dichlorophenyl)ethyl]amino}-2-(S)-hydroxy-propyl-(cyclohex-3-enylmethyl)-phosphinic acid | 0.125 g | ClC=1C=C(C=CC1Cl)C(C)NC[C@@H](CP(O)(=O)CC1CC=CCC1)O | C18H26Cl2NO3P
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 20 mg | [Pd] | Pd
product | 3-{N-[1-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxypropyl-(cyclohexylmethyl)-phosphinic acid | ClC=1C=C(C=CC1Cl)C(C)NC[C@@H](CP(O)(=O)CC1CCCCC1)O | C18H28Cl2NO3P
